US08748462B2
To a stirred solution of dimethyl 4-hydroxyisophthalate (commercially available from Chem Service)(37.7 g, 179 mmol) in DCM (256 mL, 179 mmol) at 23° C. was added TEA (30 mL, 215 mmol), and a catalytic amount of DMAP. N-phenyltriflimide (70 g, 197 mmol) was then added to the mixture and the mixture was stirred at room temperature for 21 hours. The solvent was removed, and the residue was purified on silica gel (0-10% EtOAc in hexanes) to yield T4.1 dimethyl 4-(trifluoromethylsulfonyloxy)isophthalate as a colorless oil (59.00 g, 96% yield). MS ESI (pos.) m/e: 360.0 (M+H2O)+, 343.0 (M+H)+.

reactant | dimethyl 4-hydroxyisophthalate | OC1=C(C=C(C(=O)OC)C=C1)C(=O)OC | C10H10O5
reactant | DCM | 179 mmol, 256 mL | C(Cl)Cl | CH2Cl2
reactant | N-phenyltriflimide | 197 mmol, 70 g | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | dimethyl 4-(trifluoromethylsulfonyloxy)isophthalate | 59.00 g, 96% yield | FC(S(=O)(=O)OC1=C(C=C(C(=O)OC)C=C1)C(=O)OC)(F)F | C11H9F3O7S
